US04668275
4.6 parts by weight of 2-butyryl-5-(benzo[b]fur-2-yl)-cyclohexane-1,3-dione, 1.2 parts by weight of allyloxyamine and 30 parts by volume of ethanol were stirred for 12 hours at room temperature. The solvent was distilled off under reduced pressure, the residue was taken up in 50 parts of dichloromethane, the solution was washed twice with water and dried over sodium sulfate, and the solvent was distilled off under reduced pressure. 2-(1-Allyloxyaminobutylidene)-5-(benzo[b]fur-2-yl)-cyclohexane-1,3-dione was obtained as a viscous oil in a yield of 92% (compound no. 2).

reactant | 2-butyryl-5-(benzo[b]fur-2-yl)-cyclohexane-1,3-dione | C(CCC)(=O)C1C(CC(CC1=O)C1=CC2=C(O1)C=CC=C2)=O | C18H18O4
reactant | allyloxyamine | C(C=C)ON | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | 2-(1-Allyloxyaminobutylidene)-5-(benzo[b]fur-2-yl)-cyclohexane-1,3-dione | yield of 92% | C(C=C)ONC(CCC)=C1C(CC(CC1=O)C1=CC2=C(O1)C=CC=C2)=O | C21H23NO4
